US05877317
1-(4-Methoxyphenyl)-4-[2-(1,3,4,5-tetrahydrobenzo[c]oxepin-1-yl)-ethyl]-piperazine hydrochloride (CXXV)
Step 5--Following the general procedure of EXAMPLE 50 and making non-critical variations p-methoxyphenylpiperazine is acylated with (1,3,4,5-tetrahydrobenzo[c]oxepin-1-yl)acetic acid (CXXIII, 619 mg) and the resulting amide, 1-(4-methoxyphenyl)-4-(1,3,4,5-tetrahydrobenzo[c]oxepin-1-yl)acetyl piperazine (CXXIV, 1.07 g) is reduced according to the general procedure described in EXAMPLE 50 (making non-critical variations) to give crude product. This crude material is dissolved in ether (30 ml) and methanol (3 ml) and treated with gaseous hydrochloric acid resulting in the formation of a salt. This crude salt is recrystallized from methanol/ethyl acetate to give the title compound, mp 217.0°-219.0° (uncorrected, decomp.).

reactant | p-methoxyphenylpiperazine | CON1CCN(CC1)C1=CC=CC=C1 | C11H16N2O
reactant | (1,3,4,5-tetrahydrobenzo[c]oxepin-1-yl)acetic acid | 619 mg | C1(OCCCC2=C1C=CC=C2)CC(=O)O | C12H14O3
reactant | 1-(4-methoxyphenyl)-4-(1,3,4,5-tetrahydrobenzo[c]oxepin-1-yl)acetyl piperazine | 1.07 g | COC1=CC=C(C=C1)N1CCN(CC1)C(CC1OCCCC2=C1C=CC=C2)=O | C23H28N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | methanol | 3 ml | CO | CH4O
product | 1-(4-Methoxyphenyl)-4-[2-(1,3,4,5-tetrahydrobenzo[c]oxepin-1-yl)-ethyl]-piperazine hydrochloride | Cl.COC1=CC=C(C=C1)N1CCN(CC1)CCC1OCCCC2=C1C=CC=C2 | InChI=1S/C23H30N2O2.ClH/c1-26-21-10-8-20(9-11-21)25-16-14-24(15-17-25)13-12-23-22-7-3-2-5-19(22)6-4-18-27-23;/h2-3,5,7-11,23H,4,6,12-18H2,1H3;1H
